US06369254B1
(B) Synthesis of 1,2-bis(1-fluorenyl)ethane
5.1 g, 19.6 mmol 1-bromomethylfluorene dissolved in 50 ml THF was added dropwise to 0.24 g, 9.9 mmol Mg in 10 ml THF. After addition the Grignard was refluxed for 2 hrs, cooled and water/aqueaous HCl added. After work-up this afforded 1.5 g of CH2CH2(1-fluorenyl)2 as a beige powder. 1H NMR (CDCl3): δ 3.81 ppm (CH2), 3.14 ppm (CH2).

reactant | 1-bromomethylfluorene | 19.6 mmol, 5.1 g | BrCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H11Br
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1,2-bis(1-fluorenyl)ethane | C1(=CC=CC=2C3=CC=CC=C3CC12)CCC1=CC=CC=2C3=CC=CC=C3CC12 | C28H22
